US04308263
19.6 parts by weight of diethoxyphosphonoformic acid methyl ester are diluted with 10 parts by volume of ethanol, and a solution of 5.0 parts by weight of hydrazine hydrate in 10 parts by volume of ethanol is added at +10 to +20° C. The mixture is stirred at room temperature for 8 hours, the solvent is moved in vacuo and 19.4 parts by weight (yield 99%) of crude diethoxyphosphonoformic acid hydrazide, which is further processed without purification, are obtained.

reactant | diethoxyphosphonoformic acid methyl ester | COC(=O)P(=O)(OOCC)OOCC | C6H13O7P
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | diethoxyphosphonoformic acid hydrazide | yield 99% | C(C)OOP(=O)(OOCC)C(=O)NN | C5H13N2O6P
